US05508251
Preparation of sodium 2-(4-chlorophenyl)-2,3-epoxy-3-methylbutanoate
A solution of ethyl 2-(4-chlorophenyl)-2,3-epoxy-3-methylbutanoate (3.05 g, 12 mmol), prepared in Example 1d, and sodium hydroxide (0.48 g, 12 mmol) in absolute ethanol (40 ml) was refluxed for 11/2 hours. After cooling to room temperature, the precipitate was filtered off and the filtrate was evaporated in vacuo to give a residue. The precipitate and the residue from evaporation were combined and washed with isopropyl ether to give the product (2.40 g, 80%) as white crystals.

reactant | ethyl 2-(4-chlorophenyl)-2,3-epoxy-3-methylbutanoate | 12 mmol, 3.05 g | ClC1=CC=C(C=C1)C1(C(=O)OCC)C(C)(C)O1 | C13H15ClO3
reactant | sodium hydroxide | 12 mmol, 0.48 g | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | sodium 2-(4-chlorophenyl)-2,3-epoxy-3-methylbutanoate | 2.40 g, 80% | ClC1=CC=C(C=C1)C1(C(=O)[O-])C(C)(C)O1.[Na+] | InChI=1S/C11H11ClO3.Na/c1-10(2)11(15-10,9(13)14)7-3-5-8(12)6-4-7;/h3-6H,1-2H3,(H,13,14);/q;+1/p-1
